US06627629B2
Part E. Preparation of [1,1-dioxo-(3R,4S)-4-[(R)-1-phenyl-ethylamino]-tetrahydrothiophen-3-yl]-[(S)-3-(4-fluorobenzyl)-piperidin-1-yl]-methanone
[(S)-3-(4-fluorobenzyl)-piperidin-1-yl]-[(3R,4S)-4-[(R)-1-phenyl-ethylamino]-tetrahydro-thiophen-3-yl]-methanone (1.02 g, 2.39 mmol) was dissolved in methanol (10 mL) and acetone (10 mL) and stirred on ice. Water (10 mL) was added, and the resulting heterogeneous mixture was treated with potassium peroxymonosulfate (Oxone®, 3.67 g, 5.98 mmol). After 5 min the cooling bath was removed and the mixture was stirred at room temperature. After 20.5 h , the mixture was concentrated and diluted with water. The pH was adjusted to ca. 11 with 1N sodium hydroxide, and the mixture was extracted with ethyl acetate. The combined extracts were dried (Na2SO4) and concentrated, and the residue was purified by flash column chromatography (2.5% 2-propanol/chloroform) to provide the product as a glass (790 mg, 72%). 1H NMR (300 mHz, CDCl3) δ7.31 (m, 5H), 7.11 (m, 2H), 7.06 (m, 2H), 4.50 (m, 1H), 4.0-3.7 (m, 3H), 3.5-2.9 (m, 5H), 2.7-2.5 (m, 4H), 1.9-1.6 (m, 4H), 1.43 (m, 1H), 1.33 (m, 3H), 1.20 (m, 1H), ESI MS: (M+H)+=459.3.

reactant | [(S)-3-(4-fluorobenzyl)-piperidin-1-yl]-[(3R,4S)-4-[(R)-1-phenyl-ethylamino]-tetrahydro-thiophen-3-yl]-methanone | 2.39 mmol, 1.02 g | FC1=CC=C(C[C@H]2CN(CCC2)C(=O)[C@@H]2CSC[C@H]2N[C@H](C)C2=CC=CC=C2)C=C1 | C25H31FN2OS
reactant | acetone | 10 mL | CC(=O)C | C3H6O
reactant | Water | 10 mL | O | H2O
reactant | potassium peroxymonosulfate | 5.98 mmol, 3.67 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
solvent | methanol | 10 mL | CO | CH4O
product | [1,1-dioxo-(3R,4S)-4-[(R)-1-phenyl-ethylamino]-tetrahydrothiophen-3-yl]-[(S)-3-(4-fluorobenzyl)-piperidin-1-yl]-methanone | 790 mg, 72% | O=S1(C[C@H]([C@@H](C1)N[C@H](C)C1=CC=CC=C1)C(=O)N1C[C@@H](CCC1)CC1=CC=C(C=C1)F)=O | C25H31FN2O3S
